US03991061
To 1 part of methyl 3-methoxy-2-azanaphthaleneacetate in 25 parts by volume of toluene at -78° C is slowly added 0.33 part of diisobutylaluminum hydride in toluene. The reaction is stirred for 1 hour and allowed to come to room temperature. The reaction is quenched with ethylacetate followed by ice water. The organic layer is washed with saturated sodium chloride, dried with anhydrous sodium sulfate, and 3-methoxy-2-azanaphthaleneacetaldehyde is isolated. This compound has the following structural formula ##SPC24##

reactant | methyl 3-methoxy-2-azanaphthaleneacetate | COC=1N=C(C2=CC=CC=C2C1)CC(=O)OC | C13H13NO3
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-methoxy-2-azanaphthaleneacetaldehyde | COC=1N=C(C2=CC=CC=C2C1)CC=O | C12H11NO2
